US07253286B2
N-(4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl)-N′-thiazol-2-ylurea
4-(6,7-Dimethoxyquinolin-4-yloxy)phenylcarbamic acid phenyl ester (208 mg, 0.500 mmol) and 2-aminothiazole (100 mg, 1.00 mmol) were heated and stirred in dimethylsulfoxide (1 ml) at 85° C. for 1 hour. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=20:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (150 mg, 0.355 mmol, 71%) as colorless crystals.

reactant | 4-(6,7-Dimethoxyquinolin-4-yloxy)phenylcarbamic acid phenyl ester | 0.500 mmol, 208 mg | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C24H20N2O5
reactant | 2-aminothiazole | 1.00 mmol, 100 mg | NC=1SC=CN1 | C3H4N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | N-(4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl)-N′-thiazol-2-ylurea | 0.355 mmol, 150 mg, 71% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC=1SC=CN1 | C21H18N4O4S
